US08431596B2
5-Bromo-7-methyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine
To a suspension of hydroxylamine hydrochloride (0.65 g, 9.27 mmol) in ethanol/methanol (1:1, 20 ml) was added diisopropylethylamine (0.97 ml, 5.56 mmol) and the mixture was stirred at room temp. (20° C.) for 1 h. 1-(6-Bromo-4-methyl-pyridin-2-yl)-3-carboethoxy-thiourea (0.59 g, 1.84 mmol) was added and the mixture slowly heated to reflux. Having refluxed overnight the mixture was allowed to cool and filtered to collect the precipitated solid. Further product was collected by evaporation in vacuo of the filtrate, addition of water and filtration. The combined solids were washed successively with water, ethanol/methanol and diethylether, then dried in vacuo to give the desired product. Yield 0.19 g, 45%. LCMS MI: 226.91+228.89, RT: 2.52 min, Method: 2

reactant | hydroxylamine hydrochloride | 9.27 mmol, 0.65 g | Cl.NO
reactant | diisopropylethylamine | 5.56 mmol, 0.97 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(6-Bromo-4-methyl-pyridin-2-yl)-3-carboethoxy-thiourea | 1.84 mmol, 0.59 g | BrC1=CC(=CC(=N1)NC(=S)NC(=O)OCC)C | C10H12BrN3O2S
solvent | ethanol methanol | 20 ml | C(C)O.CO
product | 5-Bromo-7-methyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | BrC1=CC(=CC=2N1N=C(N2)N)C | C7H7BrN4
